US09260448B2
Compound 75: 3-(4-Chlorophenyl)-7-phenylthieno[3,2-d]pyrimidin-2,4(1H,3H)-dione
Methyl 3-amino-4-phenylthiophene-2-carboxylate (400 mg, 1.71 mmol), triethylamine (0.04 ml, 0.43 mmol), and 4-chlorophenyl isocyanate (0.39 ml, 3.16 mmol) were dissolved in 1,4-dioxane (10 ml) in a reaction vessel. The mixture was heated with stirring at 90° C. for 3 days. After the completion of the reaction was confirmed by TLC, the reaction mixture was cooled to room temperature and filtered. The filtered solid was dissolved in a 10% sodium hydroxide/methanol (3 ml/12 ml) solution and refluxed with stirring at 100° C. overnight. After completion of the reaction, the reaction solution was cooled to room temperature, acidified with 3 N hydrochloric acid, and filtered to give 548 mg (1.54 mmol, 90% yield) of the title compound as a solid.

reactant | Methyl 3-amino-4-phenylthiophene-2-carboxylate | 1.71 mmol, 400 mg | NC1=C(SC=C1C1=CC=CC=C1)C(=O)OC | C12H11NO2S
reactant | triethylamine | 0.43 mmol, 0.04 ml | C(C)N(CC)CC | C6H15N
reactant | 4-chlorophenyl isocyanate | 3.16 mmol, 0.39 ml | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-(4-Chlorophenyl)-7-phenylthieno[3,2-d]pyrimidin-2,4(1H,3H)-dione | 1.54 mmol, 548 mg, 90% yield | ClC1=CC=C(C=C1)N1C(NC2=C(C1=O)SC=C2C2=CC=CC=C2)=O | C18H11ClN2O2S
